US08207177B2
Step c: (1S,5S)-5-({[tert-Butyl(diphenyl)silyl]oxy}methyl)-1-methylcyclopent-2-en-1-ol
A solution of (5S)-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)cyclopent-2-en-1-one (250. mg, 0.713 mmol) in diethyl ether (10.0 mL) tinder an atmosphere of nitrogen was cooled to −40° C. and a 1.60 M solution of methyllithium in diethyl ether (0.579 mL, 0.926 mmol) was added slowly and the mixture was stirred at −40° C. for 3 h. TLC indicated complete conversion, and the reaction was quenched via addition of saturated aqueous ammonium chloride (5.00 mL), extracted with EtOAc (3×10.0 mL), dried over MgSO4, filtered, and concentrated in vacuo. Silica gel chromatography eluting with a gradient of 0 to 50% EtOAc in hexanes afforded the title compound (190 mg, 73%). Stereochemistry of the product was confirmed using ROESY analysis. LC/MS: Rt=2.55 min, ES+ 367 (AA standard).

reactant | (5S)-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)cyclopent-2-en-1-one | 0.713 mmol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CC=CC1=O | C22H26O2Si
reactant | methyllithium | C[Li]
solvent | diethyl ether | 10.0 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 0.926 mmol, 0.579 mL | C(C)OCC | C4H10O
product | (1S,5S)-5-({[tert-Butyl(diphenyl)silyl]oxy}methyl)-1-methylcyclopent-2-en-1-ol | 190 mg, 73% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CC=C[C@@]1(O)C | C23H30O2Si
